US06642244B2
4-Amino-6-chloro-2-(4-methoxyphenyl)methyl-2H-pyrazolo[3,4-b]pyridine-5-carboxamide
A solution of 4-amino-6-chloro-2-(4-methoxyphenyl)methyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylic acid pentafluorophenyl ester (374 mg) in anhydrous THF was saturated with NH3 gas and stirred overnight. Removal of the solvent gave the desired product as a white solid (contain some pentafluorophenol). LC: 2.60 (Gradient 1); MH+: 332.

reactant | 4-amino-6-chloro-2-(4-methoxyphenyl)methyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylic acid pentafluorophenyl ester | 374 mg | FC1=C(C(=C(C(=C1OC(=O)C1=C(C=2C(N=C1Cl)=NN(C2)CC2=CC=C(C=C2)OC)N)F)F)F)F | C21H12ClF5N4O3
reactant | NH3 | N | H3N
solvent | THF | C1CCOC1 | C4H8O
product | 4-Amino-6-chloro-2-(4-methoxyphenyl)methyl-2H-pyrazolo[3,4-b]pyridine-5-carboxamide | NC=1C=2C(N=C(C1C(=O)N)Cl)=NN(C2)CC2=CC=C(C=C2)OC | C15H14ClN5O2
